US05025031
Sulfamic acid 2,3-dichlorophenyl ester
This compound was prepared according to the procedure of Example 56. Thus, a mixture of 16.3 g (0.10 mole) of 2,3-dichlorophenol and 9.1 ml (0.105 mole) of chlorosulfonyl isocyanate in 75 ml of toluene gave 17.4 g (72%) of the title compound as an off-white solid, mp 116°-117° C. (benzene).

reactant | 2,3-dichlorophenol | 0.10 mole, 16.3 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | chlorosulfonyl isocyanate | 0.105 mole, 9.1 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 2,3-dichlorophenyl ester | 17.4 g, 72% | ClC1=C(C=CC=C1Cl)OS(N)(=O)=O | C6H5Cl2NO3S
